US08008525B2
Ethyl 3-[3-fluoro-4-(4-phenoxybenzyloxy)phenyl]propanoate
To a solution of ice-cooled ethyl 3-(3-fluoro-4-hydroxyphenyl)propanoate (0.19 g, 0.88 mmol), (4-phenoxyphenyl)methanol (0.12 g, 0.58 mmol) and triphenylphosphine (0.23 g, 0.88 mmol) in tetrahydrofuran (5 mL) was added dropwise diethyl azodicarboxylate (a 40% solution in toluene, 0.40 mL, 0.88 mmol), and the mixture was stirred at room temperature for 4 hours. To the reaction solution was added water, and the reaction mixture was extracted with ethyl acetate. The extract was washed with water, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=8:2) to give the title compound (0.16 g, yield 71%) as an oily matter.

reactant | ethyl 3-(3-fluoro-4-hydroxyphenyl)propanoate | 0.88 mmol, 0.19 g | FC=1C=C(C=CC1O)CCC(=O)OCC | C11H13FO3
reactant | (4-phenoxyphenyl)methanol | 0.58 mmol, 0.12 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CO | C13H12O2
reactant | triphenylphosphine | 0.88 mmol, 0.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Ethyl 3-[3-fluoro-4-(4-phenoxybenzyloxy)phenyl]propanoate | 0.16 g, yield 71% | FC=1C=C(C=CC1OCC1=CC=C(C=C1)OC1=CC=CC=C1)CCC(=O)OCC | C24H23FO4
